US07700591B2
Isonipecotamide (10.2 g, 79.6 mmol) was dissolved in 37.0 mL of phosphorus oxychloride. The reaction mixture was heated at reflux for 4 h. Thereafter, the reaction was partially concentrated under reduced pressure, poured into a flask containing ice, and treated with a 5M NaOH solution until a pH of 12 was reached. A solution of di-tert-butyl dicarbonate (20.8 g, 95.5 mmol) and dioxane (40 mL) was added, and the reaction mixture was stirred at rt, under a nitrogen atmosphere, for 16 h. The reaction was then extracted with ethyl acetate (3×200 mL). The organic layer was washed once with brine solution, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification by MPLC (silica gel, 0-15% ethyl acetate/hexanes) afforded the desired tert-butyl 4-cyanopiperidine-1-carboxylate as a white crystalline solid.

reactant | Isonipecotamide | 79.6 mmol, 10.2 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | di-tert-butyl dicarbonate | 95.5 mmol, 20.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | phosphorus oxychloride | 37.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | tert-butyl 4-cyanopiperidine-1-carboxylate | C(#N)C1CCN(CC1)C(=O)OC(C)(C)C | C11H18N2O2
